US06191166B1
Synthesis of 2-(phenylacetamido)butyric acid iso-butyl ester
Following General Procedure H′ above and using phenylacetic acid (Aldrich) and iso-butyl 2-aminobutyrate (prepared following General Procedure J′ above), the title compound was prepared. The reaction was monitored by tlc on silica gel and purification was by chromatography on silica gel using 9:1 toluene:EtOAc as the eluant.

reactant | phenylacetic acid | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | iso-butyl 2-aminobutyrate | NC(C(=O)OCC(C)C)CC | C8H17NO2
product | 2-(phenylacetamido)butyric acid iso-butyl ester | C(C(C)C)OC(C(CC)NC(CC1=CC=CC=C1)=O)=O | C16H23NO3
